US08604023B2
7-Chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-5-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-6-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one
tert-Butyl 6-(7-chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-1-carboxylate (308 mg) was dissolved in 4 N HCl in dioxane (20 mL) and it was held at room temperature for an hour, then partitioned between aqueous sodium bicarbonate and EtOAc. The organic fraction was washed with brine, then dried over sodium sulfate, then concentrated and used further without purification (250 mg, 95% yield). 1H-NMR (300 MHz, CDCl3) δ 8.60 (bs, 1H), 8.10 (s, 1H), 7.80-7.10 (m, 14H), 6.90 (d, 2H), 6.62 (d, 2H), 5.65 (d, 1H), 4.55 (d, 1H), 3.95 (m, 1H), 3.80-3.60 (m, 8H), 1.60 (bs, 2H).

reactant | tert-Butyl 6-(7-chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-1-carboxylate | 308 mg | ClC1=CC2=C(N(C(C(N=C2C=2C=C3C(=NC2)NC(N3C(=O)OC(C)(C)C)=O)CC3=C(C=CC=C3)Cl)=O)CC3=CC=C(C=C3)OC)C=C1 | C35H31Cl2N5O5
solvent | HCl | 4 N | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 7-Chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-5-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-6-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 95% yield | ClC1=CC2=C(N(C(C(N=C2C=2C=C3C(=NC2)NC(N3)=O)CC3=C(C=CC=C3)Cl)=O)CC3=CC=C(C=C3)OC)C=C1 | C30H23Cl2N5O3
